### PR TITLE
Add odd-dimensional iterated norm Laplacian

### PR DESCRIPTION
**Pull request by Lemmy00**
This builds on the norm-power Laplacian and fundamental-solution API added in the preceding PRs.

It adds the odd-dimensional analytic core in a dedicated module: in dimension `2 * m + 1`, the `(m + 1)`-fold distributional Laplacian of the distribution induced by `‖x‖` is an explicit nonzero scalar multiple of `diracDelta ℝ 0`.

Main additions:
- `Physlib.SpaceAndTime.Space.Norm.IteratedLaplacian`
- `oddNormIteratedLaplacianCoeff` and `oddNormIteratedLaplacianCoeff_ne_zero`
- `iterated_distLaplacian_norm_zpow_odd_eq_smul_diracDelta`

Verification run locally:
- `lake build Physlib.SpaceAndTime.Space.Norm Physlib.SpaceAndTime.Space.Norm.IteratedLaplacian`
- `./scripts/lint-style.sh`
- `lake exe runPhyslibLinters`
- `lake build`

### CODE REVIEW

File: Physlib/SpaceAndTime/Space/Norm/IteratedLaplacian.lean [hunk 1]
```diff
@@ -0,0 +1,165 @@
...
+  ((((1 : ℤ) - 2 * (k : ℤ) : ℤ) : ℝ) *
+    ((((1 : ℤ) - 2 * (k : ℤ) - 2 + (2 * m + 1 : ℤ) : ℤ) : ℝ)))
+
+/-- The scalar factor in the odd-dimensional iterated Laplacian of the norm. -/
+noncomputable def oddNormIteratedLaplacianCoeff (m : ℕ) : ℝ :=
+  (∏ k ∈ Finset.range m, oddNormLaplacianStepCoeff m k) *
+    (((1 : ℤ) - 2 * (m : ℤ) : ℝ) * (2 * m + 1 : ℝ) *
+      (volume (α := Space (2 * m + 1))).real (Metric.ball 0 1))
+
+private lemma odd_unit_ball_volume_real_pos (m : ℕ) :
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm/IteratedLaplacian.lean]: This should be moved to the general Integrals file.

File: Physlib/SpaceAndTime/Space/Norm/IteratedLaplacian.lean [hunk 2]
```diff
@@ -0,0 +1,165 @@
...
+public import Physlib.SpaceAndTime.Space.Norm
+/-!
+
+# Iterated Laplacians of norm distributions
+
+## i. Overview
+
+This file proves an odd-dimensional iterated-Laplacian identity for the distribution induced by
+the norm on `Space (2 * m + 1)`.
+
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm/IteratedLaplacian.lean:18]: Can you write what this corresponds to here.

File: Physlib/SpaceAndTime/Space/Norm/IteratedLaplacian.lean [hunk 3]
```diff
@@ -0,0 +1,165 @@
...
+/-!
+
+## A. The odd-dimensional iterated Laplacian of the norm
+
+-/
+
+/-- The scalar factor produced by one nonsingular Laplacian step in dimension `2 * m + 1`,
+after `k` previous Laplacian steps. -/
+noncomputable def oddNormLaplacianStepCoeff (m k : ℕ) : ℝ :=
```
Comment (jstoobysmith) [inline Physlib/SpaceAndTime/Space/Norm/IteratedLaplacian.lean]: Do we actually need to make this definition?

**Comment by Lemmy00** [comment]
Thanks, addressed these in `0e55af4f`.

- moved the odd unit-ball volume positivity lemma to `Space/Integrals/Basic`;
- expanded the file overview to say this corresponds to the odd-dimensional identity where applying the Laplacian `m + 1` times to the norm gives a nonzero constant multiple of `δ₀`;
- removed the separate step-coefficient definition and inlined the factor in the product.

I also reran the local targeted builds, full `lake build`, style script, Lean linters, and `git diff --check`.

File: Physlib.lean [hunk 4]
```diff
@@ -397,6 +397,7 @@ public import Physlib.SpaceAndTime.Space.IsDistBounded
 public import Physlib.SpaceAndTime.Space.LengthUnit
 public import Physlib.SpaceAndTime.Space.Module
 public import Physlib.SpaceAndTime.Space.Norm
```
Comment (jstoobysmith) [inline Physlib.lean]: can we move this ordinary Norm file to Norm.Basic

Comment (Lemmy00) [reply Physlib.lean]: Done, moved the ordinary `Norm` file to `Norm/Basic` and updated the imports.

**Review by jstoobysmith — APPROVED** [review]
Great! Approved - many thanks.

**Comment by zhikaip** [comment]
see comments below

File: Physlib/SpaceAndTime/Space/Integrals/Basic.lean [hunk 5]
```diff
@@ -45,6 +45,50 @@ open InnerProductSpace MeasureTheory
 lemma volume_eq_addHaar {d} : (volume (α := Space d)) = Space.basis.toBasis.addHaar := by
   exact (OrthonormalBasis.addHaar_eq_volume _).symm
 
+lemma volume_closedBall_ne_zero {d : ℕ} (x : Space d.succ) {r : ℝ} (hr : 0 < r) :
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Integrals/Basic.lean]: I removed `volume_closedBall_ne_zero` and `volume_closedBall_ne_top` in #1183, duplicate from Mathlib lemmas

File: Physlib/SpaceAndTime/Space/Integrals/Basic.lean [hunk 6]
```diff
@@ -45,6 +45,50 @@ open InnerProductSpace MeasureTheory
...
+    simp only [Nat.succ_eq_add_one, finrank_eq_dim, ne_eq]
+    apply not_eq_of_beq_eq_false
+    rfl
+  · rw [InnerProductSpace.volume_closedBall_of_dim_odd (by simpa using hk)]
+    simp only [Nat.succ_eq_add_one, finrank_eq_dim, ne_eq]
+    apply not_eq_of_beq_eq_false
+    rfl
+
+/-- The real volume of the unit ball in odd-dimensional space is positive. -/
+lemma volume_metricBall_odd_real_pos (m : ℕ) :
```
Comment (zhikaip) [inline Physlib/SpaceAndTime/Space/Integrals/Basic.lean]: this holds for all d, and I think this is simple enough that it doesn't really warrant it's own lemma (Edit: unless this is reused multiple times?):
```
lemma volume_metricBall_real_pos {d : ℕ}:
    0 < (volume (α := Space d)).real (Metric.ball 0 1) :=
  ENNReal.toReal_pos
    (Metric.measure_ball_pos volume 0 one_pos).ne'
    measure_ball_lt_top.ne
```

Comment (Lemmy00) [reply Physlib/SpaceAndTime/Space/Integrals/Basic.lean]: Done, removed the duplicate closed-ball lemmas and inlined the general unit-ball real-volume positivity proof at the only use site.

Comment (zhikaip) [reply Physlib/SpaceAndTime/Space/Integrals/Basic.lean]: Many thanks for this!
